US06355822B1
NaBH4 (2.03 g, 53.72 mmol) was added in portions to a solution of L-tartaric acid (8.06 g, 53.72 mmol) in dry THF (125 ml), and the suspension thus obtained was heated at reflux temperature for 2.75 h and then cooled to −20° C. A solution of methyl (4S)-3-oxo-4-tert-butylsilyloxyundec-5-enoate (5.38 g, 11.55 mmol) in dry THF (75 ml) was then added dropwise, the temperature remaining at −20° C. After 43 h, hydrochloric acid (1M, 125 ml) was added to the reaction mixture, on account of which the temperature increased to room temperature. The mixture was stirred for a further 15 minutes. Ethyl acetate (500 ml), followed by solid sodium chloride, was then introduced until the saturation point was reached. The aqueous phase was separated off and extracted with a further 200 ml of ethyl acetate. The organic phases were combined, washed twice with 150 ml in each case of saturated sodium bicarbonate solution and then with 100 ml of a saturated sodium chloride solution, dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography (90:10 to 80:20), petroleum ether:ethyl acetate), by means of which methyl (3R, 4S)-3-hydroxy-4-tert-butylsilyloxyundec-5-enoate was obtained as a colorless oil in a yield of 89% (4.77 g, 10.20 mmol).

reactant | NaBH4 | 53.72 mmol, 2.03 g | [BH4-].[Na+]
reactant | L-tartaric acid | 53.72 mmol, 8.06 g | C([C@H](O)[C@@H](O)C(=O)O)(=O)O | C4H6O6
reactant | methyl (4S)-3-oxo-4-tert-butylsilyloxyundec-5-enoate | 11.55 mmol, 5.38 g | O=C(CC(=O)OC)[C@H](C=CCCCCC)O[SiH2]C(C)(C)C | C16H30O4Si
reactant | hydrochloric acid | 1M, 125 ml | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | THF | 125 ml | C1CCOC1 | C4H8O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | Ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | methyl (3R, 4S)-3-hydroxy-4-tert-butylsilyloxyundec-5-enoate | yield of 89% | O[C@H](CC(=O)OC)[C@H](C=CCCCCC)O[SiH2]C(C)(C)C | C16H32O4Si
